US04663409
N-Acryloylisonipecotic Acid
The procedure of Example A is used with 43 g (0.3 mol) of isonipecotic acid, 31 g (0.3 mol) of acryloyl chloride, 26.6 g (0.66 mol) of sodium hydroxide at 0° C. (ice-salt bath). The reaction mixture is acidified with 2N HCl to pH 3.0 and extracted with ethyl acetate. The organic layer is washed with a sodium chloride solution, dried over magnesium sulfate to dryness to leave a crystalline material which is crystallized from ethyl acetate n-hexane to yield 33.8 g (60%) product. Melting point 109°-110° C. NMR (CDCl3), 5.4-6.9 gamma (br m, 3H, CH2 =CH), 4.0 gamma (br, 2H), 2.1-3.4 gamma (br m, 3H), 1.2-2.1 gamma m, 4H).

reactant | isonipecotic acid | 0.3 mol, 43 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | acryloyl chloride | 0.3 mol, 31 g | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium hydroxide | 0.66 mol, 26.6 g | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
product | N-Acryloylisonipecotic Acid | 33.8 g, 60% | C(C=C)(=O)N1CCC(C(=O)O)CC1 | C9H13NO3
